US06153726
9-AA.
HCl (1.0 g) was dissolved in CH3CN (50 ml). To the suspension was added aniline (0.42 g) in CH3CN (10 ml), followed by water (50 ml). The solution was stirred at room temperature for 2 hours, but the solution did not become homogeneous. The solution was heated for 1 hour and then cooled to room temperature. To the solution was added ammonium persulphate (1.2 g) in water (10 ml) and the resulting mixture was stirred for 20 hours.

reactant | HCl | 1.0 g | Cl | ClH
reactant | aniline | 0.42 g | NC1=CC=CC=C1 | C6H7N
reactant | ammonium persulphate | 1.2 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | CH3CN | 50 ml | CC#N | C2H3N
reactant | CH3CN | 10 ml | CC#N | C2H3N
solvent | water | 10 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 9-AA | C1=CC=C2C(=C1)C(=C3C=CC=CC3=N2)N | C13H10N2
